US07763639B2
2-(1-ETHYLPIPERIDIN-4-YL)-6-(TRIFLUOROMETHOXY)PHENOL
Preparation according to Example 1: 2-piperidin-4-yl-6-(trifluoromethoxy)phenol (0.01 g), acetonitrile (2 ml), potassium carbonate (0.01 g) and 2-iodoethane (0.01 g). MS m/z (relative intensity, 70 eV) 289 (M+, 45), 288 (20), 275 (15), 274 (bp), 84 (26).

reactant | 2-piperidin-4-yl-6-(trifluoromethoxy)phenol | 0.01 g | N1CCC(CC1)C1=C(C(=CC=C1)OC(F)(F)F)O | C12H14F3NO2
reactant | potassium carbonate | 0.01 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-iodoethane | 0.01 g | ICC | C2H5I
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
product | 2-(1-ETHYLPIPERIDIN-4-YL)-6-(TRIFLUOROMETHOXY)PHENOL | C(C)N1CCC(CC1)C1=C(C(=CC=C1)OC(F)(F)F)O | C14H18F3NO2
